US05071999
c) Ethyl 5-fluoromethyl-2-methyl-2,7-diazabicyclo -[3.3.0]octane-7-carboxylate
9.1 g (43 mmol) of ethyl N-(2-fluoromethylallyl) -N-(2-oxoethyl)-carbamate are heated under reflux overnight in a water separator with 3.9 g (43 mmol) of powdered sarcosine in 170 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-(2-fluoromethylallyl) -N-(2-oxoethyl)-carbamate | 43 mmol, 9.1 g | FCC(CN(C(OCC)=O)CC=O)=C | C9H14FNO3
reactant | water | O | H2O
reactant | sarcosine | 43 mmol, 3.9 g | N(C)CC(=O)O | C3H7NO2
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-fluoromethyl-2-methyl-2,7-diazabicyclo -[3.3.0]octane-7-carboxylate | FCC12CCN(C2CN(C1)C(=O)OCC)C | C11H19FN2O2
